US06130187
Preparation of 3-(4-chloro-6-fluoro-2-methyl-3-thioacetylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil (Compound No. 631)
100 ml of toluene was added to 0.50 g (1.2 mmol) of 3-(3-acetyl-4-chloro-6-fluoro-2-methylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil and 1.5 g (6.7 mmol) of phosphorus pentasulfide, followed by stirring for 2 hours under heating and refluxing. After completion of the reaction, 100 ml of toluene was further added to the reaction solution. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 47 mg (yield: 9%) of the desired product as an orange colored glassy substance. Refractive index: 1.5967 (20° C.).

reactant | 3-(3-acetyl-4-chloro-6-fluoro-2-methylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 1.2 mmol, 0.50 g | C(C)(=O)C1=C(OC2=C1C(=CC(=C2N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)Cl)C | C17H11ClF4N2O4
reactant | phosphorus pentasulfide | 6.7 mmol, 1.5 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-chloro-6-fluoro-2-methyl-3-thioacetylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 47 mg, yield: 9% | ClC1=CC(=C(C2=C1C(=C(O2)C)C(C)=S)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C17H11ClF4N2O3S
